Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Penicillins / Ciprofloxacin / Bactrim DS / Lamictal / aspirin / 
corn / peanut / squash / pumpkin / dates / cucumber / pickles
 
Attending: ___.
 
Chief Complaint:
diarrhea and leukocytosis 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ s/p RA-LSC Hysterectomy, BSO and bilateral pelvic
sentinel LN biopsy ___, POD4, for Grade 1 Endometrial 
Cancer
now with diarrhea and leukocytosis admitted for further
evaluation. Ms. ___ reports that she was feeling okay after her
surgery. She then developed diarrhea on POD2, had multiple
episodes of loose stool. She denies generalized abdominal pain,
however, immediately preceding the urge to have a bowel 
movement,
she feels cramping and some "gas-like" pain. She denies fevers
and chills, but today reports that she had a temperature of 
100.0
at home, which prompted her to call. She denies chest pain, SOB,
dizziness, lightheadness, vaginal bleeding, nausea and vomiting.
Reports tolerating regular diet, however, does report decreased
appetite. She reports her diarrhea resolved somewhat over the
last day. She only took a single dose of oxycodone and docusate
on POD1. She also reports her pain being well controlled and
stopped taking Tylenol/motrin yesterday. 

 
Past Medical History:
- Asthma (allergy/URI related reactive airway disease)
- Depression/anxiety
- Denies history of heart disease, bleeding or clotting 
disorders

 
Social History:
___
Family History:
 Lung cancer: father
- ___: father and mother
- ___ disorders (DVT): mother
- Heart disease: mother and maternal uncles
- HTN: brother
- ___: mother (___)
- ITP: brother (family tested negative)
- Denies any genetic testing for a cancer causing mutation 
 - No known family history of breast, uterine or ovarian cancer
   

 
Physical Exam:
Gen: resting comfortably, NAD 
CV: RRR, no m/r/g
Pulm: CTAB, no w/r/r
Abd: soft, NTND, no r/g, normal bowel sounds
Extremities: WWP, no calf tenderness
 
Pertinent Results:
___ 07:30AM BLOOD WBC-12.8* RBC-4.06 Hgb-11.8 Hct-35.0 
MCV-86 MCH-29.1 MCHC-33.7 RDW-13.5 RDWSD-42.2 Plt ___
___ 08:08PM BLOOD WBC-17.3* RBC-4.50 Hgb-12.9 Hct-38.9 
MCV-86 MCH-28.7 MCHC-33.2 RDW-13.3 RDWSD-41.5 Plt ___
___ 07:30AM BLOOD Neuts-62.8 ___ Monos-6.0 Eos-6.5 
Baso-0.2 Im ___ AbsNeut-8.06* AbsLymp-3.09 AbsMono-0.77 
AbsEos-0.83* AbsBaso-0.03
___ 08:08PM BLOOD Neuts-69.5 ___ Monos-5.5 Eos-5.0 
Baso-0.3 Im ___ AbsNeut-12.03* AbsLymp-3.31 AbsMono-0.96* 
AbsEos-0.86* AbsBaso-0.05
___ 07:30AM BLOOD Glucose-91 UreaN-12 Creat-0.9 Na-139 
K-3.3* Cl-97 HCO3-28 AnGap-14
___ 08:08PM BLOOD Glucose-105* UreaN-14 Creat-0.9 Na-141 
K-3.9 Cl-99 HCO3-27 AnGap-15
___ 07:30AM BLOOD Calcium-9.3 Phos-4.4 Mg-1.8
___ 08:08PM BLOOD Calcium-10.0 Phos-3.6 Mg-1.8
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology service with 
diarrhea and leukocytosis on post-operative day ___ s/p a 
robotic-assisted laparoscopic hysterectomy, bilateral 
salpingo-oopherectomy, and sentinel lymph node biopsy for G1 
endometrial cancer. 

On evaluation in triage, patient was stable, afebrile. Her exam 
was remarkable for
mild tenderness to palpation near port sites in right lower 
quadrant. Her labs were remarkable for leukocytosis with no left 
shift. She overall looked well, with unremarkable abdominal 
exam. Differential diagnosis included gastroenteritis, 
diverticulosis, as well as more insidious post-operative issues, 
such as perforation. These were less likely given the lack of 
frank abdominal pain. 

Overnight on hospital day 1 patient had two episodes of diarrhea 
but remained afebrile. She underwent a CT scan which was 
suggestive of colitis but did not show other concerns for 
widespread infection or other post-operative issues. Thus, she 
was started on antibiotics. Patient felt well on hospital day 2, 
remained afebrile, and reported decreased episodes of diarrhea 
and improving symptoms. 

By hospital day 2, she was tolerating a regular diet, voiding 
spontaneously, ambulating independently, and pain was controlled 
with oral medications. She was then discharged home in stable 
condition with outpatient follow-up scheduled.

 
Medications on Admission:
- albuterol sulfate (nebulizer) prn
- albuterol sulfate (inhaler) prn
- Xanax 0.25mg prn
- budesonide-formoterol (160 mcg-4.5mcg) BID
- chlorthalidone 12.5mg daily
- epinephrine pen
- timolol 0.25% eye drops
- venlafaxine 37.5 mg ER 3 capsules by mouth at bedtime
- Flonase
- calcium carbonate-vitamin D3
- cholecalciferol
- cyanocobalamin
- fexofenadine
- melatonin
- omeprazole 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever  
2.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild  
3.  MetroNIDAZOLE 500 mg PO TID 
RX *metronidazole [Flagyl] 500 mg 1 tablet(s) by mouth every 8 
hours Disp #*30 Tablet Refills:*0 
4.  Chlorthalidone 12.5 mg PO DAILY  
5.  Omeprazole 20 mg PO DAILY  
6.  Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation 1 PUFF TWICE PER DAY *ID Rejected* 
7.  Timolol Maleate 0.25% 1 DROP BOTH EYES DAILY  
8.  Venlafaxine XR 112.5 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Colitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___

___ were admitted to the gynecologic oncology service after 
evaluation for diarrhea. ___ have recovered well after beginning 
antibiotics, and the team feels that ___ are safe to be 
discharged home. Please follow these instructions: 

Colitis
* Do not take immodium as this may lengthen the infection course
* Continue to take antibiotics for ___ days
* Remain hydrated, keep ahead of your fluid loss

Incision care:  
* ___ may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* ___ should remove your port site dressings ___ days after your 
surgery, if they have not already been removed in the hospital. 
Leave your steri-strips on.  If they are still on after ___ 
days from surgery, ___ may remove them.  
* If ___ have staples, they will be removed at your follow-up 
visit.

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if ___ are having loose stools 
or diarrhea.  

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  


 
Followup Instructions:
___